US05153352
9-(2'-(Hydroxymethyl)-3'-methylcyclobutyl)adenine
Following the procedures described in Example 40, replacing 9-(2',3'-bis(hydroxymethyl)-cyclobutyl)guanine, the product of Example 1, with 9-(2',3'-bis(hydroxymethyl)cyclobutyl)adenine, the product of Example 4, the title compound is prepared.

reactant | 9-(2',3'-bis(hydroxymethyl)-cyclobutyl)guanine | OCC1C(CC1CO)N1C=2N=C(NC(C2N=C1)=O)N | C11H15N5O3
reactant | 9-(2',3'-bis(hydroxymethyl)cyclobutyl)adenine | OCC1C(CC1CO)N1C2=NC=NC(=C2N=C1)N | C11H15N5O2
product | 9-(2'-(Hydroxymethyl)-3'-methylcyclobutyl)adenine | OCC1C(CC1C)N1C2=NC=NC(=C2N=C1)N | C11H15N5O
